US05637593
Treatment of a cooled solution of N,N,N',N'-tetramethyldiaminomethane (0.24 g, 0.32 mL, 2.35 mmol) in CH2Cl2 (7 mL) with acetyl chloride (0.19 g, 0.17 mL, 2.39 mmol) followed by a solution of 5-(4-methylphenoxy)indole (0.39 g, 1.74 mmol) in CH2Cl2 (6 mL), gave after work-up: 3-(N,N-dimethylaminomethyl)-5-(4-methylphenoxy)indole as a gum. This was treated with potassium cyanide (0.43 g, 6.6 mmol) and methyl iodide (0.98 g, 0.43 mL, 6.9 mmol) in DMF (6 mL) for 16 hr, and after appropriate work-up, 3-cyanomethyl-5-(4-methylphenoxy)indole was obtained as an off-white crystalline solid 0.338 g (74%).

reactant | N,N,N',N'-tetramethyldiaminomethane | 2.35 mmol, 0.32 mL, 0.24 g | CN(C)CN(C)C | C5H14N2
reactant | acetyl chloride | 2.39 mmol, 0.17 mL, 0.19 g | C(C)(=O)Cl | C2H3ClO
reactant | 5-(4-methylphenoxy)indole | 1.74 mmol, 0.39 g | CC1=CC=C(OC=2C=C3C=CNC3=CC2)C=C1 | C15H13NO
reactant | 3-(N,N-dimethylaminomethyl)-5-(4-methylphenoxy)indole | CN(C)CC1=CNC2=CC=C(C=C12)OC1=CC=C(C=C1)C | C18H20N2O
reactant | potassium cyanide | 6.6 mmol, 0.43 g | [C-]#N.[K+]
reactant | methyl iodide | 6.9 mmol, 0.43 mL, 0.98 g | CI | CH3I
solvent | CH2Cl2 | 7 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 6 mL | C(Cl)Cl | CH2Cl2
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
product | 3-cyanomethyl-5-(4-methylphenoxy)indole | C(#N)CC1=CNC2=CC=C(C=C12)OC1=CC=C(C=C1)C | C17H14N2O
